US08278319B2
Stage 2: tert-Butyl 2-((1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methoxy)acetate
tetra-n-Butylammonium chloride (0.33 eq) and sodium hydroxide solution (5 ml/mmol, 35%) were added to a cooled solution of (1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methanol (1 eq) in toluene (5 ml/mmol) at 0° C. tert-Butylbromoacetate (1.5 eq) was then slowly added dropwise at 0° C. After stirring the mixture at room temperature for 90 min the phases were separated, the organic phase was washed with water to a neutral pH, dried over sodium sulfate and concentrated to small volume under vacuum. The crude product was used in the next stage with no further purification. Yield: 64%

reactant | sodium hydroxide | [OH-].[Na+]
reactant | (1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methanol | 1 eq | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)CO)C | C15H23NO4S
reactant | tert-Butylbromoacetate | 1.5 eq | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
catalyst | tetra-n-Butylammonium chloride | 0.33 eq | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 2-((1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)methoxy)acetate | Yield: 64% | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)COCC(=O)OC(C)(C)C)C | C21H33NO6S
